US07902252B2
6.18. Synthesis of 5,5-difluoro-4-methoxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (148)
A magnetically-stirred solution/suspension of methyl 5,5-difluoro-4-methoxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, (17.40 mg, 0.075 mmol) in pH=7 buffer solution, was treated with pig-liver esterase (PLE) (64.44 mg, 100 U/mg), and warmed at 32-37° C. for a period of 18 h after conversion to product appeared to stop. The suspension was diluted with EtOAc (20 mL) and dried onto Celite. The crude was then purified by silica gel chromatography (twice). 7.9 mg. 1H NMR (400 MHz, ACETONE-d6) δ ppm 3.17-3.41 (m, 2H), 3.43 (s, 3H), 4.60 (d, J=13.28 Hz, 1H), 6.81 (s, 1H), 10.93 (br. s., 1H); 19F NMR (400 MHz, ACETONE-d6) δ ppm −105.48 (d, J=0.63 Hz, 1F), −93.65 (d, J=0.65 Hz, 1F); LCMS-MS (ESI−) 216.2 (M-1).

reactant | methyl 5,5-difluoro-4-methoxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.075 mmol, 17.40 mg | FC1(C(C2=C(NC(=C2)C(=O)OC)C1)OC)F | C10H11F2NO3
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5,5-difluoro-4-methoxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC1(C(C2=C(NC(=C2)C(=O)O)C1)OC)F | C9H9F2NO3
